US09359381B2
Step 4: (S)-Methyl 1,3-dimethyl-2,4,10-trioxo-5-phenyl-1,2,3,4,7,8,9,10-octahydropyrimido[4,5-a]indolizine-7-carboxylate
(S)-1,3-Dimethyl-2,4,10-trioxo-5-phenyl-1,2,3,4,7,8,9,10-octahydropyrimido[4,5-a]indolizine-7-carboxylic acid (1.85 g, 5.04 mmol), potassium carbonate (2.088 g, 15.11 mmol) and dimethyl sulfate (1.444 mL, 15.11 mmol) were combined in acetone (50 mL) and water (5 mL). The mixture was heated at reflux for 1.5 hours, then cooled to room temperature and evaporated under vacuum. The residue was partitioned between DCM and water and the phases separated. The organic phase was passed through a hydrophobic frit and evaporated under vacuum. Purification by chromatography on silica, eluting with 40-80% EtOAc/hexane, afforded the title compound.

reactant | (S)-1,3-Dimethyl-2,4,10-trioxo-5-phenyl-1,2,3,4,7,8,9,10-octahydropyrimido[4,5-a]indolizine-7-carboxylic acid | 5.04 mmol, 1.85 g | CN1C(N(C(C=2C1=C1C(CC[C@H](N1C2C2=CC=CC=C2)C(=O)O)=O)=O)C)=O | C19H17N3O5
reactant | potassium carbonate | 15.11 mmol, 2.088 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 15.11 mmol, 1.444 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | water | 5 mL | O | H2O
product | (S)-Methyl 1,3-dimethyl-2,4,10-trioxo-5-phenyl-1,2,3,4,7,8,9,10-octahydropyrimido[4,5-a]indolizine-7-carboxylate | CN1C(N(C(C=2C1=C1C(CC[C@H](N1C2C2=CC=CC=C2)C(=O)OC)=O)=O)C)=O | C20H19N3O5
